datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([H:5])[C:10]([C:9](=[C:8]([H:13])[H:14])[H:15])([C:11]([H:16])([H:17])[H:18])[C:12]([H:19])([H:20])[H:21])[H:4],48.4089
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[O:7][N+:8](=[O:9])[O-:10]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][O:7][N+:8](=[O:9])[O-:10],32.3936
[C:0]([C:1]([O:2][H:9])([O:3][O:4])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1](=[O:2])[H:8])([H:5])([H:6])[H:7].[O:3][O:4][H:9],123.219
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[c:16]1[c:17]([H:22])[c:18]([H:23])[c:19]([H:24])[c:20]([H:25])[c:21]1[H:26])[H:8])([H:6])[H:7],6.6944
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:16]([C:15]#[C:14][H:19])([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:6],26.5266
[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])=[C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[H:11])([H:9])[H:10].[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31]>>[C:0](=[C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([C:5](=[C:6]([H:16])[H:17])[H:15])[C:7](=[C:8]([H:19])[H:20])[H:18])[c:21]1[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]([H:30])[c:26]1[H:31])[H:11])([H:9])[H:10],-10.5437
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5][c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:13],619.591824
[C:0](=[C:1]([C:2]#[C:3][c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:10])[H:11].[H:18]>>[C:0](=[C:1]([C:2]=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:18])[H:12])([H:10])[H:11],16.602112
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[O:21][O:22][H:23]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:15][O:21][O:22][H:23],62.751632
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:32])([H:33])[H:34])[C:27](=[C:28]([H:36])[H:37])[H:35])[H:31])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:25]([C:24](=[C:23]([H:29])[H:30])[H:31])([C:26]([H:32])([H:33])[H:34])[C:27](=[C:28]([H:36])[H:37])[H:35])[H:13])([H:11])[H:12],72.9271
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18]>>[C:0]([C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])([H:6])[C:10]([c:11]1[c:12]([H:19])[c:13]([H:20])[c:14]([H:21])[c:15]([H:22])[c:16]1[H:23])([H:17])[H:18])([H:4])[H:5],46.1495
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[O:10][O:11][H:12]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][O:10][O:11][H:12],56.9024
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])([H:17])[H:18])([H:15])[H:16])[H:14])[H:10]>>[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]1([H:14])[C:5]([H:15])([H:16])[C:6]([H:17])([H:18])[C:7]1([C:8]([H:19])([H:20])[H:21])[C:9]([H:22])([H:23])[H:24])[H:10],57.3208
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([H:28])([H:29])[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:27]([H:28])([H:29])[H:30])[H:15])([H:13])[H:14],27.9073
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([S:13][H:17])([H:14])([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[S:13][C:12]([H:14])([H:15])[H:16])([H:4])([H:5])[H:17],166.942
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]([C:13]([H:17])([H:18])[H:19])[C:14]#[C:15][H:20])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:16])([C:13]([H:17])([H:18])[H:19])[C:14]#[C:15][H:20],56.0656
